US07915305B2
Method D: 3-[1-(2-Chloro-phenyl)-ethoxy]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-thiophene-2-carboxylic Acid Methyl Ester (Intermediate 4)
5-Bromo-3-[1-(2-chloro-phenyl)-ethoxy]-thiophene-2-carboxylic acid methyl ester (1.79 g, 4.76 mmol, 1.0 Eq.), bis(pinacolato)diboron (1.25 g, 4.91 mmol, 1.03 Eq.) and KOAC (1.40 g, 14.3 mmol, 3.0 Eq.) were dissolved in anhydrous 1,4-dioxane (40 mL) and degassed under nitrogen. PdCl2(PPh3)2 (100 mg, 0.14 mmol, 3 mol %) was added and the reaction heated at reflux for 30 minutes. On cooling to ambient temperature, the reaction was partitioned between EtOAc (100 mL) and water (100 mL). The aqueous layer was extracted with EtOAc (3×40 mL) and the combined organic extracts dried (MgSO4) and concentrated in vacuo. The residue was dissolved in Et2O and petroleum ether was added until a precipitate was observed. The precipitate was removed by filtration and the filtrate concentrated in vacuo. This process was repeated once. The residue was triturated from DCM/Petroleum ether to give the sub-title compound as beige solid (1.38 g, 3.38 mmol, 71%); 1H NMR (400 MHz, CDCl3) δ 1.38 (12H, s), 1.67 (3H, d), 3.90 (3H, s), 5.80 (1H, q), 7.18 (1H, s), 7.21-7.7.34 (2H, m), 7.38 (1H, dd), 7.77 (1H, dd).

reactant | 5-Bromo-3-[1-(2-chloro-phenyl)-ethoxy]-thiophene-2-carboxylic acid methyl ester | 4.76 mmol, 1.79 g, 1.0 Eq. | COC(=O)C=1SC(=CC1OC(C)C1=C(C=CC=C1)Cl)Br | C14H12BrClO3S
reactant | bis(pinacolato)diboron | 4.91 mmol, 1.25 g, 1.03 Eq. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.14 mmol, 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-[1-(2-Chloro-phenyl)-ethoxy]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-thiophene-2-carboxylic Acid Methyl Ester | 3.38 mmol, 1.38 g, 71% | COC(=O)C=1SC(=CC1OC(C)C1=C(C=CC=C1)Cl)B1OC(C(O1)(C)C)(C)C | C20H24BClO5S
